US06727264B1
2-METHYL-N-(3-{1-[(2-PHENYL-1H-IMIDAZOL-4-YL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 2-phenyl-1H-imidazole-4-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 403.2 (M+H)+.

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[(2-PHENYL-1H-IMIDAZOL-4-YL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1N=C(NC1)C1=CC=CC=C1)C | C25H30N4O
